US07834063B2
4-[(3-{[4-(1,1-Dimethylethyl)phenyl]oxy}propyl)(2,2-dimethylpropyl)amino]-2-(trifluoromethyl)benzonitrile
Synthesized as described in Example 1C from 4-[(2,2-dimethylpropyl)(3-hydroxypropyl)amino]-2-(trifluoromethyl)benzonitrile and 4-tert-butylphenol: MS (ESI) m/z 447 (M+1).

reactant | 4-[(2,2-dimethylpropyl)(3-hydroxypropyl)amino]-2-(trifluoromethyl)benzonitrile | CC(CN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CCCO)(C)C | C16H21F3N2O
reactant | 4-tert-butylphenol | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
product | 4-[(3-{[4-(1,1-Dimethylethyl)phenyl]oxy}propyl)(2,2-dimethylpropyl)amino]-2-(trifluoromethyl)benzonitrile | CC(C)(C)C1=CC=C(C=C1)OCCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(C)(C)C | C26H33F3N2O
